US07129239B2
Preparation of 9-(4-Chlorophenyl)-8-(2-chlorophenyl)-6-isopropoxy-9H-purine (31A-1)
9-(4-Chlorophenyl)-8-(2-chlorophenyl)-9H-purin-6-ol (I-(4A-7)b; 50 mg, 0.14 mmol), 2-iodopropane (26 mg, 0.15 mmol), and cesium carbonate (50 mg, 0.15 mmol) were combined in dimethylformamide (0.7 ml) and stirred overnight. Additional 2-iodopropane (13 mg, 0.76 mmol), and cesium carbonate (25 mg, 0.76 mmol) were added and stirred an addional day. The reaction mixture was diluted with ethyl ether and then washed with saturated aqueous sodium bicarbonate and brine. The organic layer was dried (Na2SO4), evaporated to dryness, and then purified on a Biotage™ Flash 12S column using 0–70% ethyl acetate in hexanes as eluant to afford title compound 31A-1 (34 mg, 56%); 1H NMR: +ESI MS (M+1) 399.4; (400 MHz, CD2Cl2) δ 8.51 (s, 1H), 7.56 (dd, J=7.5, 1.7 Hz, 1H), 7.47–7.34 (m, 5H), 7.23 (d, J=9.1 Hz, 2H), 5.71 (septuplet, J=6.2 Hz, 1H), 1.50 (d, J=6.2 Hz, 6H).

reactant | 9-(4-Chlorophenyl)-8-(2-chlorophenyl)-9H-purin-6-ol | 0.14 mmol, 50 mg | ClC1=CC=C(C=C1)N1C2=NC=NC(=C2N=C1C1=C(C=CC=C1)Cl)O | C17H10Cl2N4O
reactant | 2-iodopropane | 0.15 mmol, 26 mg | IC(C)C | C3H7I
reactant | cesium carbonate | 0.15 mmol, 50 mg | C([O-])([O-])=O.[Cs+].[Cs+]
reactant | 2-iodopropane | 0.76 mmol, 13 mg | IC(C)C | C3H7I
reactant | cesium carbonate | 0.76 mmol, 25 mg | C([O-])([O-])=O.[Cs+].[Cs+]
solvent | dimethylformamide | 0.7 ml | CN(C=O)C | C3H7NO
solvent | ethyl ether | C(C)OCC | C4H10O
product | 9-(4-Chlorophenyl)-8-(2-chlorophenyl)-6-isopropoxy-9H-purine | ClC1=CC=C(C=C1)N1C2=NC=NC(=C2N=C1C1=C(C=CC=C1)Cl)OC(C)C | C20H16Cl2N4O
